US05958375
e. Di[3-amino-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]methanol
Di[3-nitro-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]ketone (0.70 g, 1.4 mmol) was dissolved in methanol (40 ml) and was hydrogenated at 60 psi using a Pd/C catalyst (10%, 0.20 g). The catalyst was filtered off and the solvent was evaporated. Analysis by 1H NMR indicated complete conversion to the product. Yield: 0.62 g (100%).

reactant | Di[3-nitro-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]ketone | 1.4 mmol, 0.70 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NCC(CO)O)C(=O)C1=CC(=CC(=C1)C(=O)NCC(CO)O)[N+](=O)[O-] | C21H22N4O11
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | Di[3-amino-5-(2,3-dihydroxypropylaminocarbonyl)phenyl]methanol | NC=1C=C(C=C(C1)C(=O)NCC(CO)O)C(O)C1=CC(=CC(=C1)C(=O)NCC(CO)O)N | C21H28N4O7
